US07238689B2
0.77 g (4.0 mmoles) of sodium methoxide (a 28% methanol solution) was added to a solution of 0.5 g (1.6 mmoles) of 5,5-dimethyl-3-(5-fluoro-1-methyl-3-trifluoromethyl-1H-pyrazol-4-ylmethylthio)-2-isoxazoline dissolved in 20 ml of methanol. The mixture was stirred for 4 hours under refluxing, to give rise to a reaction. After confirmation of the completion of the reaction, the reaction mixture was poured into water, followed by extraction with ethyl acetate. The resulting organic layer was washed with water and an aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to vacuum distillation to remove the solvent contained therein, to obtain 0.5 g (yield: 96.7%) of 5,5-dimethyl-3-(5-methoxy-2-methyl-3-trifluoromethyl-1H-pyrazol-4-ylmethylthio)-2-isoxazoline as a yellow oily substance.

reactant | sodium methoxide | 4.0 mmoles, 0.77 g | C[O-].[Na+]
reactant | 5,5-dimethyl-3-(5-fluoro-1-methyl-3-trifluoromethyl-1H-pyrazol-4-ylmethylthio)-2-isoxazoline | 1.6 mmoles, 0.5 g | CC1(CC(=NO1)SCC=1C(=NN(C1F)C)C(F)(F)F)C | C11H13F4N3OS
reactant | water | O | H2O
reactant | methanol | 20 ml | CO | CH4O
product | 5,5-dimethyl-3-(5-methoxy-2-methyl-3-trifluoromethyl-1H-pyrazol-4-ylmethylthio)-2-isoxazoline | 0.5 g, yield: 96.7% | CC1(CC(=NO1)SCC=1C(N(NC1OC)C)C(F)(F)F)C | C12H18F3N3O2S
